US08486967B2
Isopropyl 4-(6-methyl-2-(1-(6-methylpyrimidin-4-yl)piperidin-4-ylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-5,6-dihydropyridine-1(2H)-carboxylate
Prepared in analogy to example 164b, starting from 6-methyl-N-(1-(6-methylpyrimidin-4-yl)piperidin-4-yl)-8-(1,2,3,6-tetrahydropyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine and isopropyl chloroformate. The title compound was obtained as a colorless solid (yield: 32%) after column chromatography on silica gel using a gradient from methylene chloride to a mixture of methylene chloride/methanol 19:1 (v/v) as eluent. MS ISP (m/e): 491.3 (100) [(M+H)+]. 1H NMR (CDCl3, 300 MHz): (ppm)=8.51 (s, 1H), 8.04 (s, 1H), 7.16 (br s, 1H), 7.11 (s, 1H), 6.41 (s, 1H), 4.97 (sept, 1H), 4.39 (d, 1H), 4.31 (br d, 2H), 4.21 (br s, 2H), 3.96 (m, 1H), 3.72 (t, 1H), 3.18 (t, 2H), 2.63 (br s, 2H), 2.37 (s, 3H), 2.34 (s, 3H), 2.21 (br d, 2H), 1.53 (m, 2H), 1.26 (d, 6H).

reactant | 6-methyl-N-(1-(6-methylpyrimidin-4-yl)piperidin-4-yl)-8-(1,2,3,6-tetrahydropyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine | CC=1C=C(C=2N(C1)N=C(N2)NC2CCN(CC2)C2=NC=NC(=C2)C)C=2CCNCC2 | C22H28N8
reactant | isopropyl chloroformate | ClC(=O)OC(C)C | C4H7ClO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Isopropyl 4-(6-methyl-2-(1-(6-methylpyrimidin-4-yl)piperidin-4-ylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-5,6-dihydropyridine-1(2H)-carboxylate | CC=1C=C(C=2N(C1)N=C(N2)NC2CCN(CC2)C2=NC=NC(=C2)C)C2=CCN(CC2)C(=O)OC(C)C | C26H34N8O2
